US04267176
To a solution of 2-chloroacrylonitrile(437 mg) and 1-ethoxycarbonylformamidine hydrobromide (985 mg) in ethanol (5 ml) was added dropwise triethylamine (1.01 g) at 0° C. The reaction mixture was stirred for 4 hours at ambient temperature and evaporated to dryness. The residue was dissolved in a mixture of ethyl acetate and water, and extracted with ethyl acetate three times. The combined extracts were dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was triturated with diethyl ether to give ethyl 4-aminopyrimidine-2-carboxylate (480 mg), which was recrystallized from a mixture of ethyl acetate and benzene, mp. 101°-104° C.

reactant | 2-chloroacrylonitrile | 437 mg | ClC(C#N)=C | C3H2ClN
reactant | 1-ethoxycarbonylformamidine hydrobromide | 985 mg | Br.C(C)OC(=O)C(=N)N
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 4-aminopyrimidine-2-carboxylate | 480 mg | NC1=NC(=NC=C1)C(=O)OCC | C7H9N3O2
